US06448397B1
To a mixture of N-{2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}acetamide (0.212 g, 0.53 mmol) in THF (10 mL) is added borane-methylsulfide complex (0.15 mL, 1.6 mmol). The mixture is refluxed at 85° C. for 16 hours. After cooling, methanol is slowly added until gas evolution ceased. The solvents are removed under vacuum and methanol (5 mL) is added then removed. The residue is dissolved in CH2C2/CH3OH (1:5, 15 mL). Conc. HCl is added and the mixture is heated at 65° C. for 1 h. The mixture is removed from heat, neutralized with aqueous potassium carbonate and then partitioned between water and CH2Cl2. The organic layer is washed with water, dried over magnesium sulfate, and concentrated. Column chromatography (70 g silica gel) using CH3OH/CH2C2 (5:95) as eluent gave 0.148 g (70%) of N-ethyl-2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine (TLC: MeOH/CH2C2, 5/95, Rf=0.38); conversion to the maleic acid salt and recrystallizing from absolute ethanol gave 0.0223 g of N-ethyl-2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine, maleic acid salt.

reactant | N-{2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}acetamide | 0.53 mmol, 0.212 g | CC=1C=C2C=3C(=CC=CC3N3C2=C(C1)OCC3C3=CC=CC=C3)OCCNC(C)=O | C25H24N2O3
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-ethyl-2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine | 0.148 g, 70% | C(C)NCCOC1=CC=CC=2N3C4=C(C=C(C=C4C12)C)OCC3C3=CC=CC=C3 | C25H26N2O2
